US07863446B2
Synthesis of N-[(4-{4-chloro-6-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)pyrimidin-5-yl}phenyl)sulfonyl]acetamide
A solution of 4-{4-chloro-6-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)pyrimidin-5-yl}benzenesulfonamide (0.5 g, 1.01 mmol, prepared according to the procedure described in PCT/IB03/02879), DMAP (0.01 g) and acetyl chloride (0.5 g, 6.36 mmol) were stirred at 30° C. TLC confirmed the completion of the reaction after 4 hours of stirring under the same conditions. Subsequently the resulting mass was poured onto the ice, and the procedure described for example 14 was followed to afford the title compound (0.252 g, 46.41%, purity by HPLC 98.82%); m.p.: 230-235° C. 1H-NMR (DMSO-d6) δ: 1.87 (s, 3H), 3.17 (s, 3H), 7.51-7.53 (m, 2H), 7.66-7.67 (m, 2H), 7.8-7.82 (d, 2H), 7.9 (s, 1H), 7.99 (s, 1H), 12.14 (s, 1H, D2O exchangeable). IR (KBr) cm−1: 3150, 1720, and 1525. MS m/z: 533.7(M+).

reactant | 4-{4-chloro-6-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)pyrimidin-5-yl}benzenesulfonamide | ClC1=NC(=NC(=C1C1=CC=C(C=C1)S(=O)(=O)N)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C18H13ClF3N3O4S2
reactant | acetyl chloride | 6.36 mmol, 0.5 g | C(C)(=O)Cl | C2H3ClO
catalyst | DMAP | 0.01 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-[(4-{4-chloro-6-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)pyrimidin-5-yl}phenyl)sulfonyl]acetamide | 0.252 g | ClC1=NC(=NC(=C1C1=CC=C(C=C1)S(=O)(=O)NC(C)=O)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C20H15ClF3N3O5S2
